US04117129
3-[o-aminophenoxy]-indole-2-carboxylic acid
1.6g of methyl-3-[o-aminophenoxy]-indole-2-carboxylate was dissolved in 10ml each of ethanol and water and refluxed for 10 min. The clear solution was acidified with acetic acid. The white precipitate was filtered and recrystallized from acetonitrile to give analytical material, mp. 217°-18°.

reactant | methyl-3-[o-aminophenoxy]-indole-2-carboxylate | 1.6g | COC(=O)C=1NC2=CC=CC=C2C1OC1=C(C=CC=C1)N | C16H14N2O3
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10ml | C(C)O | C2H6O
product | 3-[o-aminophenoxy]-indole-2-carboxylic acid | NC1=C(OC2=C(NC3=CC=CC=C23)C(=O)O)C=CC=C1 | C15H12N2O3
